US06518266B1
{bis[(4-Methoxyphenyl)methylthio]methylene}methane-1,1-dicarbonitrile (101)
DMF (40 mL) was slowly added to a rapidly stirred mixture of malononitrile (13.2 g, 0.2 mol) and NaH (9.6 g, 0.4 mol) and CS2 (22.8 g, 0.3 mol) in benzene (200 mL). The reaction mixture was stirred at room temperature for 30 min and 4-methoxybenzyl chloride (93.6 g, 0.6 mol) was added. The resulting mixture was stirred for 12 h, and benzene (50 mL) and ice-water (200 mL) were added. The organic layer was separated, dried, and concentrated in vacuum. The product was purified by flash chromatography on silica gel, eluting with ethyl acetate:hexanes (15:85). Yield: 45.8 g (0.12 mol, 60%). NMR (δ, CDCl3): 7.22 (4H, d, J=8.6 Hz); 6.85 (4H, d, J=8.6 Hz); 4.33 (4H, s); 3.79 (6H, s).

reactant | malononitrile | 0.2 mol, 13.2 g | C(CC#N)#N | C3H2N2
reactant | NaH | 0.4 mol, 9.6 g | [H-].[Na+]
reactant | CS2 | 0.3 mol, 22.8 g | C(=S)=S | CS2
reactant | 4-methoxybenzyl chloride | 0.6 mol, 93.6 g | COC1=CC=C(CCl)C=C1 | C8H9ClO
solvent | benzene | 200 mL | C1=CC=CC=C1 | C6H6
solvent | benzene | 50 mL | C1=CC=CC=C1 | C6H6
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | {bis[(4-Methoxyphenyl)methylthio]methylene}methane-1,1-dicarbonitrile | COC1=CC=C(C=C1)CSC(SCC1=CC=C(C=C1)OC)=C(C#N)C#N | C20H18N2O2S2
